US04016186
In a closed vessel 12.2g (0.1 mol) of p-ethylphenol, 7.2 g (0.1 mol) of 1,2-butylene oxide and 0.8 ml of a 50% aqueous solution of sodium hydroxide were heated at 140° to 145° C for 4 hours in the same way as in Example 1. The reaction mixture obtained was treated in the same way as in Example 1 to afford 14.8 g of 1-(p-ethylphenoxy)-butan-2-ol (compound No. 52) in a yield of 76.3%.

reactant | p-ethylphenol | 0.1 mol, 12.2g | C(C)C1=CC=C(C=C1)O | C8H10O
reactant | 1,2-butylene oxide | 0.1 mol, 7.2 g | C1C(CC)O1 | C4H8O
reactant | sodium hydroxide | [OH-].[Na+]
product | 1-(p-ethylphenoxy)-butan-2-ol | 14.8 g, yield of 76.3% | C(C)C1=CC=C(OCC(CC)O)C=C1 | C12H18O2
